US04151180
Under stirring, 4.6 parts of anhydrous aluminum chloride are added to 100 volume parts of dry tetrahydrofuran, followed by the addition of 3.11 parts of trans-3-(4-oxo-4H-1-benzopyran-3-yl)-acrylonitrile and 4.5 parts of sodium azide. The whole mixture is refluxed for 28 hours and, then, 35 volume parts of 15 weight% hydrochloric acid are added to the resulting mixture, followed by distilling off tetrahydrofuran under reduced pressure. The resulting residue is recovered by filtration and recrystallized from methanol, dimethylformamide-water and, then, from methanol. This procedure yields trans-1-(4-oxo-4H-1-benzopyran-3-yl)-2-(1H-tetrazol-5-yl) ethylene as light-yellow needles. Melting point: 254.5°-255° C.(decomp. with foaming).

reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | trans-3-(4-oxo-4H-1-benzopyran-3-yl)-acrylonitrile | O=C1C(=COC2=C1C=CC=C2)/C=C/C#N | C12H7NO2
reactant | sodium azide | [N-]=[N+]=[N-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | trans-1-(4-oxo-4H-1-benzopyran-3-yl)-2-(1H-tetrazol-5-yl) ethylene | O=C1C(=COC2=C1C=CC=C2)\C=C\C2=NN=NN2 | C12H8N4O2
